US08314087B2
1-(2-Hydroxyethyl)-5-(thiophen-2-yl)pyridin-2(1H)-one.
To a microwave vial with 5-bromo-1-(2-hydroxyethyl)pyridin-2(1H)-one (0.400 g, 2 mmol), 2-thiopheneboronic acid (0.800 g, 6 mmol), Potassium Carbonate (2 mL, 4 mmol) and 1,4-Dioxane (2.5 mL, 29 mmol) was added Palladium-Fibrecat. The vial was equipped with a stir bar and capped. The vial was placed into the CEM microwave for 20 minutes at 140° C., while 50 Watts of energy was supplied via Powermax. The progress of the reaction was monitored by LC/MS, which showed mostly desired product in the mixture. The mixture was diluted with CH2Cl2 (3 mL) and Water (2 mL). The organic layer was extracted with 3:1 CH2Cl2/MeOH (3×16 mL). Combined organics, dried over Sodium sulfate, filtered and concentrated in-vacuo. The crude was recrystallized from 5:1 CH2Cl2/MeOH and Hexanes to give the desired product as a light-yellow crystalline solid (0.280 g, 69% yield). MS (ESI pos. ion) m/z (MH+): 222. Calc'd exact mass for C11H11NO2S: 221. 1H NMR (300 MHz, CDCl3): 7.60 (s, 3H), 7.06 (s, 3H), 4.16 (s, 2H), 3.98 (s, 2H).

reactant | 5-bromo-1-(2-hydroxyethyl)pyridin-2(1H)-one | 2 mmol, 0.400 g | BrC=1C=CC(N(C1)CCO)=O | C7H8BrNO2
reactant | 2-thiopheneboronic acid | 6 mmol, 0.800 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Potassium Carbonate | 4 mmol, 2 mL | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-Dioxane | 29 mmol, 2.5 mL | O1CCOCC1 | C4H8O2
product | 1-(2-Hydroxyethyl)-5-(thiophen-2-yl)pyridin-2(1H)-one | OCCN1C(C=CC(=C1)C=1SC=CC1)=O | C11H11NO2S
